US20010018525A1
step 2 3,5-diphenyl-4-[(2-methoxyethoxy)methoxy]-phenyl decyl ether
To a stirred solution of 3,5-diphenyl-4-[(2-methoxyethoxy)methoxy]-phenol (0.946 g, 2.7 mmol) in DMF (15ml) was added K2CO3 (0.746 g, 5.4 mmol) and iododecane (1.632 g, 5.4 mmol). The reaction mixture was warmed to ˜63° C. After ˜20 h, additional K2CO3 (0.373 g, 2.7 mmol) and iododecane (0.816 g, 2.7 mmol) were added. Heating was continued for an additional 20h followed by stirring at room temperature for ˜20 h. The reaction mixture was concentrated in vac and the residue taken up in EtOAc (50 ml) and water (20 mil). The layers were shaken and separated and the organic layer was washed with water (3×10 ml), brine (2×10 ml), dried over Na2SO4, filtered and the filtrate concentrated in vac and dried. The residue was purified by flash chromatography (hexane and 5% EtOAc/Hex) to give the product as a brown oil (0.897 g, 68%); 1H NMR (400 MHz, DMSO-d6) δ0.83-0.88 (m, 3H), 1.20-1.37 (m, 12H), 1.37-1.46 (m, 2H), 1.68-1.76 (m, 2H), 2.71-2.75 (m, 2H), 2.86-2.88 (m, 2H), 3.01 (s, 3H), 4.03 (t, J=6.4 Hz, 2H), 4.22 (s, 2H), 6.87 (s, 2H), 7.34-7.39 (m, 2H), 7.42-7.48 (m, 4H), 7.56-7.60 (m, 4H); IR (film) 2940, 1590, 1460, 1190 cm−1; mass spectrum [(+)ESI], m/lz 508 (M+NH4)−.

reactant | 3,5-diphenyl-4-[(2-methoxyethoxy)methoxy]-phenol | 2.7 mmol, 0.946 g | C1(=CC=CC=C1)C=1C=C(C=C(C1OCOCCOC)C1=CC=CC=C1)O | C22H22O4
reactant | K2CO3 | 5.4 mmol, 0.746 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iododecane | 5.4 mmol, 1.632 g | ICCCCCCCCCC | C10H21I
reactant | K2CO3 | 2.7 mmol, 0.373 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iododecane | 2.7 mmol, 0.816 g | ICCCCCCCCCC | C10H21I
solvent | DMF | 15ml | CN(C)C=O | C3H7NO
product | 3,5-diphenyl-4-[(2-methoxyethoxy)methoxy]-phenyl decyl ether | 0.897 g, 68% | C(CCCCCCCCC)OC1=CC(=C(C(=C1)C1=CC=CC=C1)OCOCCOC)C1=CC=CC=C1 | C32H42O4
